US07465815B2
5-Amino-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-3-ol
To a solution of 4-bromotoluene (2.73 g, 16.0 mmol) in THF (30 mL) was added dropwise a solution of n-butyllithium in hexane (1.60 M, 10.0 mL, 16.0 mmol) under argon atmosphere at −78° C., and the mixture was stirred at the same temperature for 30 minutes. Then, to the reaction solution was added dropwise a solution of 5-amino-2,2,4,6,7-pentamethyl-1-benzofuran-3 (2H)-one obtained in Reference Example 57 (1.0 g, 4.56 mmol) in THF (10 mL) at the same temperature, and the reaction solution was stirred at room temperature for 1 hour, followed by addition of water, which was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1), to obtain 921 mg (yield 65%) of the title compound. Melting point: 165-166° C. (ethyl acetate-hexane).

reactant | 4-bromotoluene | 16.0 mmol, 2.73 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 16.0 mmol, 1.60 M, 10.0 mL | CCCCCC | C6H14
reactant | 5-amino-2,2,4,6,7-pentamethyl-1-benzofuran-3 (2H)-one | NC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C13H17NO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 5-Amino-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-3-ol | 921 mg, yield 65% | NC=1C(=C(C2=C(C(C(O2)(C)C)(O)C2=CC=C(C=C2)C)C1C)C)C | C20H25NO2
